US06982274B2
Methyl 3-(3-fluorophenyl)-1-trityl-1H-5-indazolecarboxylate
To a solution of 2.43 g of methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate produced in Production Example I-4-e in 25 ml tetrahydrofuran was added 720 mg of 60% sodium hydride (oily), and the mixture was stirred under ice-cooling for 10 minutes. Then, 3.26 g of chlorotriphenylmethane was added and the mixture was stirred at the same temperature for 30 minutes and at room temperature for 1 hour. The reaction mixture was ice-cooled, saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with 100 ml of ethyl acetate. The organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was crystallized from ethyl acetate-diisopropyl ether, to give 3.48 g of the title compound as white crystals. In addition, the mother liquor was concentrated, and then the residue was crystallized from diisopropyl ether, to give 0.37 g of the title compound as white crystals.

reactant | methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate | 2.43 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)OC | C15H11FN2O2
reactant | sodium hydride | 720 mg | [H-].[Na+]
reactant | chlorotriphenylmethane | 3.26 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Methyl 3-(3-fluorophenyl)-1-trityl-1H-5-indazolecarboxylate | 3.48 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H25FN2O2
